US04493843
A solution of 4-carboxybenzaldehyde (38.44 g) in nitroethane (360 ml) and butylamine (2 ml) was heated at reflux for 2 hours with azeotropic distillation of water using a Dean and Stark apparatus The solution was cooled to room temperature and the resulting solid was collected and recrystallised from isopropanol (250 ml) with hot filtration to give 1-(4-carboxyphenyl)-2-nitropropene (31.57 g) in the form of a yellow crystalline solid, m.p. 212°-214° C.

reactant | 4-carboxybenzaldehyde | 38.44 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | water | O | H2O
reactant | nitroethane | 360 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | butylamine | 2 ml | C(CCC)N | C4H11N
product | 1-(4-carboxyphenyl)-2-nitropropene | 31.57 g | C(=O)(O)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C10H9NO4
